US06090837
PREPARATION P: 4-Acetylbenzoyl chloride
120 mmol of thionyl chloride are added to 600 mmol of 4-acetylbenzoic acid in 150 ml of toluene. The reaction mixture is heated at reflux for 3 hours and then cooled. The solvent is evaporated off. The product is used without any other treatment.

reactant | thionyl chloride | 120 mmol | S(=O)(Cl)Cl | Cl2OS
reactant | 4-acetylbenzoic acid | 600 mmol | C(C)(=O)C1=CC=C(C(=O)O)C=C1 | C9H8O3
solvent | toluene | 150 ml | C1(=CC=CC=C1)C | C7H8
product | 4-Acetylbenzoyl chloride | C(C)(=O)C1=CC=C(C(=O)Cl)C=C1 | C9H7ClO2
